US08431575B2
To a stirred solution of (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-4-(4-nitro-benzoyloxy)-piperidine-1-carboxylic acid tert-butyl ester (0.914 mmol, 0.63 g) in a mixture of methanol (8 mL) and water (2 mL) was added sodium hydroxide (0.3 g) and continued stirring for 3 h at room temperature. The volatiles were removed under reduced pressure and the residue was dissolved in water (20 mL). This was extracted with ethyl acetate (3×15 mL), combined organic layer was dried, filtered and concentrated. The residue was purified by flash silica gel column chromatography by eluting with 20% ethyl acetate in hexanes to provide (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.395 g) as an white solid.

reactant | (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-4-(4-nitro-benzoyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.914 mmol, 0.63 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C38H48N4O8
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.395 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)O)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C31H45N3O5
